US06492383B1
N-(2-{4-[4-(1H-Indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzylamino}-ethyl)-acetamide
The title compound was prepared from N-(2-amino-ethyl)-acetamide and 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde by a procedure analogous to example 17. M.P. 142-155° C.; LC-MS: 457 (MH+); HPLC RT: 3.35 minutes.

reactant | N-(2-amino-ethyl)-acetamide | NCCNC(C)=O | C4H10N2O
reactant | 4-[4-(1H-indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzaldehyde | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(C=O)C=C2 | C21H14N4OS
product | N-(2-{4-[4-(1H-Indol-5-ylamino)-thieno[3,2-d]pyrimidin-6-yl]-benzylamino}-ethyl)-acetamide | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC=C(CNCCNC(C)=O)C=C2 | C25H24N6OS
